US07045619B2
1-Methylcyclohexanol (4.57 g) in dichloromethane (40 ml) was cooled in an ice-bath and treated with pyridine (3.24 ml). Chloromethyl chloroformate (3.65 ml) in dichloromethane (10 ml) was added dropwise through a pressure-equalising funnel. The mixture was stirred for 2 h and then washed with water (2×), dried (MgSO4) and then evaporated to leave a reddish-coloured oil, which was dissolved in dichloromethane and filtered through silica gel (230-400 mesh ASTM) to give (after evaporation) chloromethyl 1-methylcyclohexyl carbonate as a colourless oil (8.97 g), υmax(CH2Cl2) 2940, 2865, 1763, 1444, 1346, 1292, and 1237 cm−1; δ(CDCl3) 1.25-1.70 (11H, m), 2.12-2.18 (2H, m), 5.69 (2H,s) ppm.

reactant | 1-Methylcyclohexanol | 4.57 g | CC1(CCCCC1)O | C7H14O
reactant | pyridine | 3.24 ml | N1=CC=CC=C1 | C5H5N
reactant | Chloromethyl chloroformate | 3.65 ml | ClC(=O)OCCl | C2H2Cl2O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | chloromethyl 1-methylcyclohexyl carbonate | 8.97 g | C(OCCl)(OC1(CCCCC1)C)=O | C9H15ClO3
